US07932246B2
N-(1-Isobutoxyethoxy) 2-(6-morpholin-4-yl-3-aza-bicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxamide
The crude 2-(6-Morpholin-4-yl-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxylic acid was suspended in anhydrous DMF (3 ml) and EDCl (19 mg, 0.1 mmol) and HOBt (11 mg, 0.075 mmol) were added. After stirring for ˜5 minutes, triethylamine (35 μl, 0.25 mmol) and intermediate D (58 μl, 0.5 mmol) were added and the resultant mixture was stirred at r.t. for 18 h. The reaction mixture was diluted with water and extracted with EtOAc (3×10 ml) and DCM (2×10 ml). The combined organics were dried (MgSO4) and evaporated onto silica. The residue was purified by flash chromatography eluting with 100% DCM to 15% MeOH/DCM to give the title compound as an off-white solid (10 mg, 51%). LCMS purity 100%, m/z 406 [M+H]+.

reactant | 2-(6-Morpholin-4-yl-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxylic acid | N1(CCOCC1)C1C2CN(CC12)C1=NC=C(C=N1)C(=O)O | C14H18N4O3
reactant | EDCl | 0.1 mmol, 19 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.075 mmol, 11 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.25 mmol, 35 μl | C(C)N(CC)CC | C6H15N
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(1-Isobutoxyethoxy) 2-(6-morpholin-4-yl-3-aza-bicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxamide | 10 mg, 51% | C(C(C)C)OC(C)ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)N1CCOCC1 | C20H31N5O4
